US08703951B2
A solution of dimethyl 3-(4-chlorophenyl)-6-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate (3.2 g, 7 mmol) in anhydrous dichloromethane (35 mL) was added dropwise into a stirred suspension of LiAlH4 (0.6 g, 17.8 mmol) in anhydrous diethyl ether (20 mL) at 0 to −5° C. The reaction mixture was further stirred for 15 min after the addition was completed. The excess hydride was destroyed by the sequential addition of water (1 mL), 15% aqueous NaOH (1 mL), and water (1 mL) at 0° C. The mixture was filtered through a pad of Celite and the solid was washed with dichloromethane. The combined filtrate and washings were evaporated to dryness in vacuo. The residue was triturated with ether to give (3-(4-chlorophenyl)-6-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-diyl)-dimethanol (BO-1934), 2.2 g (77%); mp 238-239° C. 1H NMR (DMSO-d6) δ 3.62 (3H, s, Me), 4.10 (2H, s, CH2), 4.29 (2H, m, CH2), 4.55 (2H, s, CH2) 4.59 (2H, brs, exchangeable, 2×OH), 5.16 (2H, s, CH2), 7.04-7.08 (1H, m, ArH), 7.14-7.18 (1H, m, ArH), 7.43-7.45 (1H, m, ArH), 7.53-7.59 (5H, m, 5×ArH). Anal. Calcd for (C23H21ClN2O2.0.5H2O): C, 68.74; H, 5.52; N, 6.97. Found: C, 68.72; H, 5.16; N, 6.94.

reactant | dimethyl 3-(4-chlorophenyl)-6-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate | 7 mmol, 3.2 g | ClC1=CC=C(C=C1)C1=C(C(=C2CC3=C(N(C=4C=CC=CC34)C)CN12)C(=O)OC)C(=O)OC | C25H21ClN2O4
reactant | LiAlH4 | 17.8 mmol, 0.6 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | (3-(4-chlorophenyl)-6-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-diyl)-dimethanol | ClC1=CC=C(C=C1)C1=C(C(=C2CC3=C(N(C=4C=CC=CC34)C)CN12)CO)CO | C23H21ClN2O2
